US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-morpholin-4-yl-pyridin-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXVI)
In a similar fashion compound to CXXV, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 2-Morpholin-4-yl-pyridine-4-carbaldehyde (36.0 mg, 0.187 mmol) and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to yield 36.32 mg (46%) of the title compound. (300 MHz, DMSO-d6) 12.35 (s, 1H), 8.26 (s, 1H), 7.79 (s, 1H), 7.52 (s, 1H), 7.38 (s, 2H), 7.25 (s, 1H), 6.39 (s, 2H), 5.15 (s, 1H), 3.75 (s, 4H), 3.54 (s, 4H), 2.90 (s, 1H), 2.80 (s, 1H), 2.62 (s, 1H), 2.26 (s, 1H), 1.38 (s, 1H). MS=466 (M+H), HPLC: 1.76 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 2-Morpholin-4-yl-pyridine-4-carbaldehyde | 0.187 mmol, 36.0 mg | N1(CCOCC1)C1=NC=CC(=C1)C=O | C10H12N2O2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-morpholin-4-yl-pyridin-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 36.32 mg, 46% | ClC=1C(=C2C(=NC1)NC(=N2)C2=CC(=NC=C2)N2CCOCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C23H24ClN7O2
